US09334278B2
To a solution of N-tert-butyl-2-(1-methyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (89 mg, 201 mol) in dichloromethane (3 mL) was added trifluoroacetic acid (458 mg, 309 μL, 4.01 mmol) and the reaction mixture stirred at room temperature for 16 h. The mixture was concentrated in vacuo then dissolved in dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.45 mL) and the mixture stirred at room temperature for 1 h. After concentration in vacuo, the mixture was triturated with water and filtered to collect the solid. The solid was washed with ether and dried to give N-tert-butyl-2-(1-methyl-1H-pyrazol-4-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (58 mg, 185 mol, 92%) as a brown solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.18 (s, 1H), 9.11 (s, 1H), 7.90 (d, J=3.2, 1 H), 7.86 (s, 1H), 7.85 (s, 1H), 7.72 (s, 1H), 7.55 (s, 1H), 3.80 (s, 3H), 1.43 (s, 9H); MS (EI/CI) m/z: 314.1 [M+H].

reactant | N-tert-butyl-2-(1-methyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 201 mol, 89 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NN(C2)C)COCC[Si](C)(C)C | C21H33N7O2Si
reactant | trifluoroacetic acid | 4.01 mmol, 309 μL, 458 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-tert-butyl-2-(1-methyl-1H-pyrazol-4-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 185 mol, 58 mg, 92% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NN(C2)C | C15H19N7O
